US07091228B2
A mixture of ethyl 4-(3-methyl-4′-nitro-1,1′-biphenyl-4-yl)-4-oxo-2-(2-phenylethyl)butanoate (3.40 g, 7.60 mmol), iron powder (4.20 g, 76.00 mmol), 2 N aqueous hydrochloric acid (3.80 mL, 7.60 mmol), and 85/15 ethanol/water (100 mL) was stirred at reflux for 2.5 h. The reaction mixture was filtered through a pad of Celite®, and concentrated to give ethyl 4-(4′-amino-3-methyl-1,1′-biphenyl-4-yl)-4-oxo-2-(2-phenylethyl)butanoate as a light, brown solid (2.94 g, 93% yield). LC-MS ret. time 3.23 min, m/z 416.1 (MH+); 1H NMR (CDCl3) δ 1.32 (t, 3H), 1.82–2.17 (m, 2H), 2.58 (s, 3H), 2.68–2.77 (m, 2H), 2.98–3.09 (m, 2H), 3.49 (dd, 1H), 3.74 (br s, 2H), 4.10 (q, 2H), 6.79 (d, 2H), 7.12–7.37 (m, 5H), 7.38–7.54 (m, 4H), 7.78 (d, 1H).

reactant | ethyl 4-(3-methyl-4′-nitro-1,1′-biphenyl-4-yl)-4-oxo-2-(2-phenylethyl)butanoate | 7.60 mmol, 3.40 g | CC=1C=C(C=CC1C(CC(C(=O)OCC)CCC1=CC=CC=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C27H27NO5
reactant | hydrochloric acid | 7.60 mmol, 2 N, 3.80 mL | Cl | ClH
catalyst | iron | 76.00 mmol, 4.20 g | [Fe] | Fe
solvent | ethanol water | 100 mL | C(C)O.O
product | ethyl 4-(4′-amino-3-methyl-1,1′-biphenyl-4-yl)-4-oxo-2-(2-phenylethyl)butanoate | NC1=CC=C(C=C1)C1=CC(=C(C=C1)C(CC(C(=O)OCC)CCC1=CC=CC=C1)=O)C | C27H29NO3
